US09388189B2
(S)-2-(1-((5-(1-((3-Hydroxyphenyl)sulfonyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1-((3-Methoxyphenyl)sulfonyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (48.5 mg, 0.06 mmol) was treated with boron tribromide (1M in dichloromethane, 0.75 ml, 0.75 mmol) in dichloromethane (2 ml) and then with a solution of ammonia (7N in methanol, 5 ml, 35 mmol) according to the method described in Example 41 to give 6.7 mg (17% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-(1-((3-Methoxyphenyl)sulfonyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 48.5 mg | COC=1C=C(C=CC1)S(=O)(=O)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C37H41N9O5SSi
reactant | boron tribromide | 0.75 mmol, 1M, 0.75 ml | B(Br)(Br)Br | BBr3
reactant | ammonia | 35 mmol, 7N, 5 ml | N | H3N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-2-(1-((5-(1-((3-Hydroxyphenyl)sulfonyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 6.7 mg, 17% yield | OC=1C=C(C=CC1)S(=O)(=O)N1N=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C30H25N9O4S
